US06337196B1
The purified cyanohydrin was dissolved in 2 ml of absolute methylene chloride and the solution was treated at room temperature with 2 mol equivalents of acetic anhydride and with 2 mol equivalents of pyridine and stirred at room temperature for 34 hours with exclusion of moisture. 350 μl of absolute methanol were then added and the mixture was stirred at room temperature for 0.5 hour. It was then diluted with 10 ml of methylene chloride and extracted with 10 ml each of 5% H2SO4, distilled water and saturated NaHCO3 solution and dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. 112 mg (95%) of (S)-2-acetoxy-2-methylpentanenitrile were obtained. e.e.=75% (determined by gas chromatography)

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methanol | 350 μl | CO | CH4O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-acetoxy-2-methylpentanenitrile | 112 mg, 95% | C(C)(=O)O[C@](C#N)(CCC)C | C8H13NO2
